US04435422
(±) 6,7-Dichloro-2,3-dihydro-5-(4-nitrobenzoyl)-2-benzofurancarboxylic acid
Anhydrous aluminum chloride (5.97 g., 0.0448 mole) was added in small portions to a stirred mixture of 2.6 g. (0.0112 mole) of 6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid and 6.24 g. (0.0336 mole) of 4-nitrobenzoyl chloride. The mixture was heated at 90° C. for 4 hours and then poured into 170 ml. of ice water and 10 ml. of concentrated hydrochloric acid. The product was extracted into ethyl acetate (200 ml.), washed with water, and then extracted with 5% aqueous sodium bicarbonate (100 ml.) from which the sodium salt of the product precipitated. The sodium salt of the product was filtered and transferred to a separatory funnel with 2 N hydrochloric acid (70 ml.) and ethyl acetate (150 ml.) and shaken until the solid dissolved. The ethyl acetate solution was washed with water, dried over sodium sulfate and evaporated in vacuo. The product was recrystallized from acetic acid; m.p. 243°-245°.

reactant | aluminum chloride | 0.0448 mole, 5.97 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid | 0.0112 mole | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1)Cl | C9H6Cl2O3
reactant | 4-nitrobenzoyl chloride | 0.0336 mole | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | hydrochloric acid | Cl | ClH
product | (±) 6,7-Dichloro-2,3-dihydro-5-(4-nitrobenzoyl)-2-benzofurancarboxylic acid | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | C16H9Cl2NO6
